US09260413B2
A mixture of 2,4-dichloro-5-methoxypyrimidine (85 g, 475 mmol), and K2CO3 (78.8 g, 570 mmol) in allyl alcohol (320 mL, 4.75 mol) was heated to 70° C. for 5 h before being cooled to r.t. and diluted with DCM, filtered through Celtic (DCM wash) and concentrated to give 95.0 g (99.7%) of 2-chloro-5-methoxy-4-(prop-2-en-1-yloxy)pyrimidine. 1H-NMR (CDC3, 300 MHz) δ 7.85 (s, 1H), 6.09-5.99 (m, 1H), 5.43-5.38 (in, 1H), 5.31-5.27 (m, 1H), 4.91 (m, 2H), 3.87 (s, 3H). MS (ESI) m/z (M+H)+ 201.0.

reactant | 2,4-dichloro-5-methoxypyrimidine | 475 mmol, 85 g | ClC1=NC=C(C(=N1)Cl)OC | C5H4Cl2N2O
reactant | K2CO3 | 570 mmol, 78.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl alcohol | 4.75 mol, 320 mL | C(C=C)O | C3H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-methoxy-4-(prop-2-en-1-yloxy)pyrimidine | 95.0 g, 99.7% | ClC1=NC=C(C(=N1)OCC=C)OC | C8H9ClN2O2
